US09260397B2
1-(4-bromophenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure, 4.48 mmol (1.00 g) 1-(4-bromophenyl)imidazole and 5.40 mmol (0.660 g, 0.49 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 20 h to 90° C.

reactant | 1-(4-bromophenyl)imidazole | 4.48 mmol, 1.00 g | BrC1=CC=C(C=C1)N1C=NC=C1 | C9H7BrN2
reactant | 1-bromopropane | 5.40 mmol, 0.49 ml, 0.660 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-3-propyl imidazolium bromide | [Br-].BrC1=CC=C(C=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C12H14BrN2.BrH/c1-2-7-14-8-9-15(10-14)12-5-3-11(13)4-6-12;/h3-6,8-10H,2,7H2,1H3;1H/q+1;/p-1
